US04952723
The percent selectivity to N-phosphonomethylglycine was determined by dividing the moles of N-phosphonomethylglycine and N-formyl-N-phosphonomethylglycine produced by the total moles of N-phosphonomethyliminodiacetic acid consumed and multiplying by 100. The percent conversion of N-phosphonomethyliminodiacetic acid was determined by dividing the moles of N-phosphonomethyliminodiacetic acid that were reacted by the total moles of starting N-phosphonomethyliminodiacetic acid and multiplying by 100.

reactant | N-phosphonomethylglycine | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
reactant | N-formyl-N-phosphonomethylglycine | C(=O)N(CC(=O)O)CP(=O)(O)O | C4H8NO6P
product | N-phosphonomethyliminodiacetic acid | P(=O)(O)(O)CN(CC(=O)O)CC(=O)O | C5H10NO7P
